US07384930B2
(S)-4-Chloro-9-neopentyl-7-(2-oxo-2-(4-(2-oxo-4-phenyl-2,3-dihydroimidazol-1-yl)piperidin-1-yl)ethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
Title compound was prepared from 4-phenyl-1-(piperidin-4-yl)-1H-imidazol-2(3H)-one in a manner analogous to the preparation of 4-Chloro-9-(2,2-dimethyl-propyl)-7-(S)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one. Material was obtained as white solid in 46% yield. MS m/e (M+H)+=589.2. 1H NMR (500 MHz, DMSO-D6): δ=13.55 (s, 1H), 10.68 (s, 1H), 8.37 (s, 1H), 7.50 (d, J=7.63, 2H), 7.32 (t, J=7.02, 2H), 7.24 (s, 1H), 7.16 (m, 2H), 5.37 (d, J=14.34, 1H), 4.63 (d, J=16.79, 1H), 4.51 (t, J=10.83, 1H), 4.13 (m, 2H), 3.89 (m, 1H), 3.57 (m, 1H), 3.18 (m, 1H), 3.03 (m, 3H), 2.89 (t, J=115.11, 1H), 2.66 (m, 1H), 2.34 (d, J=16.17 1H), 1.84 (m, 3H), 1.60 (m, 1H), 0.73 (d, J=13.73, 9H).

reactant | 4-phenyl-1-(piperidin-4-yl)-1H-imidazol-2(3H)-one | C1(=CC=CC=C1)C=1NC(N(C1)C1CCNCC1)=O | C14H17N3O
reactant | 4-Chloro-9-(2,2-dimethyl-propyl)-7-(S)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O)=O)CC(C)(C)C | C31H37ClN6O3
product | (S)-4-Chloro-9-neopentyl-7-(2-oxo-2-(4-(2-oxo-4-phenyl-2,3-dihydroimidazol-1-yl)piperidin-1-yl)ethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 46% yield | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(N2CCC(CC2)N2C(NC(=C2)C2=CC=CC=C2)=O)=O)=O)CC(C)(C)C | C32H37ClN6O3
